US06716861B2
tert-butyl (3R)-3-[3-(1-benzhydryl-3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate
A solution of tert-butyl (3R)-3-[({[(Z)-amino(1-benzhydryl-3-azetidinyl)methylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate (preparation 35) (2.85 g, 5.07 mmol) in toluene (90 ml) was heated at 140° C. under Dean and Stark conditions for 18 hours. The reaction mixture was allowed to cool to room temperature. The solvent was removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of cyclohexane:Et2O (90:10) gradually changing to (60:40) to afford the title compound as a colourless oil (2.0 g, 73%).

reactant | tert-butyl (3R)-3-[({[(Z)-amino(1-benzhydryl-3-azetidinyl)methylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | 5.07 mmol, 2.85 g | N\C(\C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C34H47N3O4
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3R)-3-[3-(1-benzhydryl-3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 2.0 g, 73% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C34H45N3O3
